* Circuit Extracted by Tanner Research's L-Edit V7.12 / Extract V4.00 ;
* TDB File:  C:\Users\fenn3804\Desktop\Ledit\CreightonsAttempt, Cell:  inv
* Extract Definition File:  C:\Users\fenn3804\Desktop\Ledit\template.ext
* Extract Date and Time:  12/12/2013 - 15:47

.include 2um_CMOS.modlib
Vdd 1 0 dc 5v

Vina 3 0 pwl(0ns,0v,
+480ns,0v,480.001ns,5v,
+640ns,5v,640.001ns,0v,
+800ns,0v,800.001ns,5v,
+960ns,5v,960.001ns,0v,
+1280ns,0v,1280.001ns,5v,
+1440ns,5v,1440.001ns,0v,
+1600ns,0v,1600.001ns,5v,
+1760ns,5v,1760.001ns,0v,
+1920ns,0v,1920.001ns,5v,
+2400ns,5v)

Vinb 5 0 pwl(0ns,0v,
+160ns,0v,160.001ns,5v,
+320ns,5v,320.001ns,0v,
+800ns,0v,800.001ns,5v,
+960ns,5v,960.001ns,0v,
+1120ns,0v,1120.001ns,5v,
+1600ns,5v,1600.001ns,0v,
+1760ns,0v,1760.001ns,5v,
+1920ns,5v,1920.001ns,0v,
+2080ns,0v,2080.001ns,5v,
+2240ns,5v,2240.001ns,0v,
+2400ns,0v)

* NODE NAME ALIASES

*R1 3 0 .00001k
*R2 5 0 .00001k

* NODE NAME ALIASES

CL 4 0 500fF
M1 6 7 4 1 CMOSP L=2u W=5u AD=115p PD=86u AS=55p PS=42u 
* M1 DRAIN GATE SOURCE BULK (30 50.5 32 55.5) 
M2 1 3 7 1 CMOSP L=2u W=5u AD=160p PD=104u AS=27.5p PS=21u 
* M2 DRAIN GATE SOURCE BULK (12 50.5 14 55.5) 
M3 6 3 1 1 CMOSP L=2u W=5u AD=115p PD=86u AS=160p PS=104u 
* M3 DRAIN GATE SOURCE BULK (33 74 38 76) 
M4 1 5 8 1 CMOSP L=2u W=5u AD=160p PD=104u AS=27.5p PS=21u 
* M4 DRAIN GATE SOURCE BULK (68 50.5 70 55.5) 
M5 6 5 1 1 CMOSP L=2u W=5u AD=115p PD=86u AS=160p PS=104u 
* M5 DRAIN GATE SOURCE BULK (53 74 58 76) 
M6 6 8 4 1 CMOSP L=2u W=5u AD=115p PD=86u AS=55p PS=42u 
* M6 DRAIN GATE SOURCE BULK (50 50.5 52 55.5) 
M7 10 7 4 0 CMOSN L=2u W=5u AD=57.5p PD=43u AS=55p PS=42u 
* M7 DRAIN GATE SOURCE BULK (30 34.5 32 39.5) 
M8 9 3 4 0 CMOSN L=2u W=5u AD=57.5p PD=43u AS=55p PS=42u 
* M8 DRAIN GATE SOURCE BULK (50.5 34.5 52.5 39.5) 
M9 0 3 7 0 CMOSN L=2u W=5u AD=160p PD=104u AS=27.5p PS=21u 
* M9 DRAIN GATE SOURCE BULK (12 34.5 14 39.5) 
M10 0 5 8 0 CMOSN L=2u W=5u AD=160p PD=104u AS=27.5p PS=21u 
* M10 DRAIN GATE SOURCE BULK (68 34.5 70 39.5) 
M11 9 5 0 0 CMOSN L=2u W=5u AD=57.5p PD=43u AS=160p PS=104u 
* M11 DRAIN GATE SOURCE BULK (53.5 15.5 58.5 17.5) 
M12 10 8 0 0 CMOSN L=2u W=5u AD=57.5p PD=43u AS=160p PS=104u 
* M12 DRAIN GATE SOURCE BULK (33 15.5 38 17.5) 

* Total Nodes: 10
* Total Elements: 12
* Extract Elapsed Time: 0 seconds
.op
.probe
.tran 100ps 2.4us
.END